US07064124B2
1-(3,4,5,6-Tetramethoxy-2-methylphenyl)-1-(3-benzyloxyphenyl)methanol
An anhydrous tetrahydrofuran (50 ml) solution of 3,4,5,6-tetramethoxy-2-methylbenzaldehyde (14 g, 0.058 mol) was added dropwise under ice cooling to a Grignard reagent (150 ml tetrahydrofuran solution) prepared from 3-(benzyloxy)bromobenzene (18.4 g, 0.070 mol) and magnesium (1.87 g, 0.077 mol), and the resulting solution was stirred for 2 hours. The reaction solution was poured in an aqueous solution of saturated ammonium chloride and extracted with ether. The extract was washed with saturated brine and then dried. The reaction solution was filtered, the filtrate was concentrated and the obtained crude product was purified by silica gel column chromatography (hexand:ethyl acetate=4:1) to obtain the titled compound (23.5 g, 0.055 mol, 95%).

reactant | 3,4,5,6-tetramethoxy-2-methylbenzaldehyde | 0.058 mol, 14 g | COC=1C(=C(C=O)C(=C(C1OC)OC)OC)C | C12H16O5
reactant | 3-(benzyloxy)bromobenzene | 0.070 mol, 18.4 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)Br | C13H11BrO
reactant | magnesium | 0.077 mol, 1.87 g | [Mg] | Mg
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-(3,4,5,6-Tetramethoxy-2-methylphenyl)-1-(3-benzyloxyphenyl)methanol | 0.055 mol, 23.5 g, 95% | COC=1C(=C(C(=C(C1OC)OC)OC)C(O)C1=CC(=CC=C1)OCC1=CC=CC=C1)C | C25H28O6
